US05489570
2,2-Difluoro-1,3-benzodioxole-4-carboxylic acid (15.0 g) was dissolved in 1,2-dichloroethane and N,N-dimethylformamide and thionyl chloride (10.6 g) added. The mixture was heated under reflux for 1 hour, and the solvent evaporated in vacuo. The residue was dissolved in toluene and re-evaporated to yield 2,2-difluoro-1,3-benzodioxol-4-oyl chloride (17.35 g).

reactant | 2,2-Difluoro-1,3-benzodioxole-4-carboxylic acid | 15.0 g | FC1(OC2=C(O1)C=CC=C2C(=O)O)F | C8H4F2O4
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 10.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2,2-difluoro-1,3-benzodioxol-4-oyl chloride | 17.35 g | FC1(OC2=C(O1)C=CC=C2C(=O)Cl)F | C8H3ClF2O3
